US08530468B2
5-(1-(4-methoxybenzyl)-1H-imidazo[4,5-c]pyridin-6-ylamino)pyrazine-2-carbonitrile
Palladium (II) acetate (3.5 mg, 16 μmol) was added to (±)-2,2″-bis(diphenylphosphino)-1,1″-binaphthalene (59 mg, 94 μmol) in DMF/toluene (1:2) and the resulting mixture was degassed under a stream of nitrogen gas for 10 minutes. 2-Amino-5-cyanopyrazine (19 mg, 0.16 mmol), sodium tert-butoxide (45 mg, 0.47 mmol) and 1-(4-methoxybenzyl)-6-bromo-1H-imidazo[4,5-c]pyridine (50 mg, 0.16 mmol) were added and the mixture was degassed for a further 5 minutes before heating at 150° C. for 30 minutes using microwave irradiation. The reaction mixture was partitioned between water and dichloromethane. The aqueous phase extracted with dichloromethane. The combined organic layers were dried (Na2SO4) and concentrated. The residue was dissolved in methanol, passed through a PS-Thiol column and concentrated. The product was purified using preparative HPLC to give the title compound (22.4 mg, 40%). 1H NMR (d6-DMSO, 400 MHz) δ 10.84 (br s, 1H), 8.77 (d, 1H, J=1.3 Hz), 8.74 (m, 2H), 8.49 (s, 1H), 8.17 (s, 1H), 7.34 (m, 2H), 5.41 (s, 2H), 3.72 (s, 3H). LCMS (2) Rt=2.32 min; m/z (ESI+) 358 (MH+), (ESI−) 356 (M−H).

reactant | 2-Amino-5-cyanopyrazine | 0.16 mmol, 19 mg | NC1=NC=C(N=C1)C#N | C5H4N4
reactant | sodium tert-butoxide | 0.47 mmol, 45 mg | CC(C)([O-])C.[Na+]
reactant | 1-(4-methoxybenzyl)-6-bromo-1H-imidazo[4,5-c]pyridine | 0.16 mmol, 50 mg | COC1=CC=C(CN2C=NC=3C=NC(=CC32)Br)C=C1 | C14H12BrN3O
solvent | DMF toluene | CN(C)C=O.C1(=CC=CC=C1)C
catalyst | Palladium (II) acetate | 16 μmol, 3.5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 5-(1-(4-methoxybenzyl)-1H-imidazo[4,5-c]pyridin-6-ylamino)pyrazine-2-carbonitrile | 22.4 mg, 40% | COC1=CC=C(CN2C=NC=3C=NC(=CC32)NC=3N=CC(=NC3)C#N)C=C1 | C19H15N7O
